US20010016207A1
C. 4-(1-Methyl-piperidin-4-yl)-benzoic acid hydrochloride
4-(1-Methyl-piperidin-4-yl)-benzoic acid methyl ester (4.55 mmol) is dissolved in 4N HCl (10 ml) and heated under reflux for 8 hours. After cooling the solvent is evaporated and the residue is suspended in acetone and the solid filtered of, washed with acetone and dried (vacuum). A pale-brown powder with mp. >270° C. is obtained.

reactant | 4-(1-Methyl-piperidin-4-yl)-benzoic acid methyl ester | 4.55 mmol | COC(C1=CC=C(C=C1)C1CCN(CC1)C)=O | C14H19NO2
reactant | HCl | 4N, 10 ml | Cl | ClH
product | 4-(1-Methyl-piperidin-4-yl)-benzoic acid hydrochloride | Cl.CN1CCC(CC1)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C13H17NO2.ClH/c1-14-8-6-11(7-9-14)10-2-4-12(5-3-10)13(15)16;/h2-5,11H,6-9H2,1H3,(H,15,16);1H
